US06180844B2
4-Amino-3-methylphenol (370 mg, 3.00 mmols) was put into a 30-ml conical flask, purged with argon, and dissolved in 1.3 ml of dry DMF. Next, 0.42 ml (1 eq.) of dry triethylamine was added. Then, a dry DMF solution (3.0 ml) of benzoyl chloride (0.35 ml) was added, and stirred at room temperature for 12 hours. The resulting reaction mixture was poured into 50 ml of cold water, suction filtered, extracted with methylene chloride, and washed with water. The methylene chloride layer was dried with sodium sulfate, and methylene chloride was removed by evaporation under reduced pressure. Next, the residue was purified by column clromnatography (silica gel eluted with methylene chloride) to obtain 400 mg of the intended product, 4-hydroxy-2-methylphenylbenzamide (yield: 60%).

reactant | 4-Amino-3-methylphenol | 3.00 mmols, 370 mg | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | triethylamine | 0.42 ml, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | DMF | 3.0 ml | CN(C)C=O | C3H7NO
reactant | benzoyl chloride | 0.35 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 50 ml | O | H2O
product | 4-hydroxy-2-methylphenylbenzamide | yield: 60% | OC1=CC(=C(C=C1)C1=C(C(=O)N)C=CC=C1)C | C14H13NO2
